US05506191
Preparation of 2-[1-(3,5-difluorophenylaminocarbonyl)-pyrazol-3-yl]-nicotinic acid sodium salt (Table B cmpd. no. 23)
0.95 g (4.5 mM) of 2-(pyrazol-3-yl)-nicotinic acid sodium salt are stirred in 20 ml of DMF and 0.7 g (4.5 mM) of 3,5-difluorophenyl isocyanate added. After stirring for 1 hr at RT, a further 0.21 g of isocyanate in DMF are added. The DMF is stripped-off on a Kugelrohr and the resulting solid stirred with 4 ml water and filtered. The filtrate is chromatographed on a reverse phase column with 100 ml of water followed by 100 ml water-methanol. The product containing fraction was lypholized to yield the title product m.p. 165°-170° C.

reactant | 2-(pyrazol-3-yl)-nicotinic acid sodium salt | 4.5 mM, 0.95 g | [Na+].N1N=C(C=C1)C1=C(C(=O)[O-])C=CC=N1
reactant | 3,5-difluorophenyl isocyanate | 4.5 mM, 0.7 g | FC=1C=C(C=C(C1)F)N=C=O | C7H3F2NO
reactant | isocyanate | 0.21 g | [N-]=C=O
reactant | water | 4 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-[1-(3,5-difluorophenylaminocarbonyl)-pyrazol-3-yl]-nicotinic acid sodium salt | [Na+].FC=1C=C(C=C(C1)F)NC(=O)N1N=C(C=C1)C1=C(C(=O)[O-])C=CC=N1 | InChI=1S/C16H10F2N4O3.Na/c17-9-6-10(18)8-11(7-9)20-16(25)22-5-3-13(21-22)14-12(15(23)24)2-1-4-19-14;/h1-8H,(H,20,25)(H,23,24);/q;+1/p-1
